US07427632B2
3-Chloro-N-[1-(2-chlorophenyl)-2-(1-methylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide
Using alkylation method B, 3-chloro-N-[1-(2-chloro-phenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (300 mg, 0.67 mmol) and paraformaldehyde (201 mg, 6.7 mmol) afforded, after purification (SiO2: 10:10:1 hexane:EtOAc:isopropylamine), 175 mg (57%) of the title compound.

reactant | 3-chloro-N-[1-(2-chloro-phenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 0.67 mmol, 300 mg | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCNCC1)C1=C(C=CC=C1)Cl | C23H25Cl2N3O2
reactant | paraformaldehyde | 6.7 mmol, 201 mg | C=O | CH2O
product | 3-Chloro-N-[1-(2-chlorophenyl)-2-(1-methylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCN(CC1)C)C1=C(C=CC=C1)Cl | C24H27Cl2N3O2
